Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Lanolin
 
Attending: ___.
 
Chief Complaint:
?molar pregnancy, vaginal bleeding
 
Major Surgical or Invasive Procedure:
D&C

 
History of Present Illness:
___ yo G5P2 with likely molar pregnancy presents to the ED for 
evaluation of vaginal bleeding. 

She reports that since ___ has felt off with nausea, no 
appetite, bloated, tired, diarrhea. The symptoms then worsened. 
On ___ pm she stood up and had large gush of vaginal bleeding, 
bled through and soaked her pants. After her initial heavy 
bleeding on ___ for ___ hrs, it then stopped. Now she reports
spotting since ___. No abdominal pain. Continued bloating 
and nausea. No weight loss. +Breast tenderness
 
Past Medical History:
POBH: G5P2
- G1: LTCS, ___
- G2: SVD, ___
- SAb x3 after

PGYNH: 
- LMP: Beginning of ___, before that was ___. Not very
regular every ___ months. Always been irregular
- Denies STIs
- Denies abnormal Pap tests
- Denies fibroids, ovarian cysts

PMH: 
- Breast atypical ductal hyperplasia

PSurgH: 
- Open appendectomy
- Lumpectomy
- Hemorrhoidectomy
- Lymph node removal

 
Social History:
___
Family History:
Sister with soft tissue sarcoma, diagnosed age ___. Father with 
testicular, prostate and AML. No breast, ovary, uterine, 
cervical, colon, pancreas cancers
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: soft, appropriately tender, nondistended, no 
rebound/guarding
___: nontender, nonedematous
 
Pertinent Results:
___ 08:02PM   LACTATE-0.9
___ 07:50PM   GLUCOSE-80 UREA N-11 CREAT-0.6 SODIUM-133 
POTASSIUM-4.4 CHLORIDE-103 TOTAL CO2-22 ANION GAP-12
___ 07:50PM   WBC-8.6 RBC-4.43 HGB-9.7* HCT-30.1* MCV-68* 
MCH-21.8* MCHC-32.1 RDW-16.7*
___ 07:50PM   NEUTS-70.3* ___ MONOS-5.5 EOS-0.9 
BASOS-0.4
___ 07:50PM   PLT COUNT-222
___ 07:50PM   ___ PTT-24.2* ___
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  HOURS-RANDOM
___ 07:00PM URINE  UHOLD-HOLD
___ 07:00PM URINE  GR HOLD-HOLD
___ 07:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service after 
undergoing dilation and curretage. Please see the operative 
report for full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with PO percocet and 
motrin. Her diet was advanced without difficulty. She was given 
methergine for 24 hours. Patient was recommended barrier 
contraception vs Paragard IUD given history of DCIS, which will 
be addressed at follow-up visit.

By post-operative day 1, she was tolerating a regular diet, 
voiding spontaneously, ambulating independently, and pain was 
controlled with oral medications. She was then discharged home 
in stable condition with outpatient follow-up scheduled.

 
Medications on Admission:
zofran prn
 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN Pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
suspected molar pregnancy (pathology report pending)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,
You were admitted with suspected molar pregnancy and underwent 
uncomplicated D&C.  You should follow up as scheduled.  It is 
particularly important that your HCG levels be trended to zero 
then followed, and that you prevent any interim pregnancy.

Please follow these instructions:
- Nothing in the vagina for at least 1 week
- You may take ibuprofen and/or tylenol for pain, both available 
over the counter
- You may walk up stairs.
- Please use condoms or a diaphragm if you have intercourse to 
prevent pregnancy. You may also be a candidate for a Paragard 
IUD. You can discuss these options at your followup visit.
 
Followup Instructions:
___